US08049015B2
3-[(N-Benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid ethyl ester (2.03 g, 4.9 mmol) was treated with 1N aqueous LiOH (10 mL) in MeOH (60 mL) and THF (10 mL). After stirring for 1 hour at room temperature, additional 1N aqueous LiOH (10 mL) was added, and the reaction was stirred for another 2 hours. The mixture was poured into H2O (200 mL) and neutralized with 1N aqueous HCl (50 mL). The solution was extracted three times with EtOAc to give 3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid.

reactant | 3-[(N-Benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid ethyl ester | 4.9 mmol, 2.03 g | C(C)OC(C1=CC(=C(C=C1)Br)CN(C(=O)C1CC1)CC1=CC=CC=C1)=O | C21H22BrNO3
reactant | LiOH | 1N, 10 mL | [Li+].[OH-]
reactant | LiOH | 1N, 10 mL | [Li+].[OH-]
reactant | H2O | 200 mL | O | H2O
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | MeOH | 60 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC=1C=C(C(=O)O)C=CC1Br | C19H18BrNO3
